US05055458
A solution of 6-chloro-9-[1-(diethoxyphosphorylmethoxy)-3-hydroxyprop-2-oxy]-2-formamidopurine (400 mg, 0.91 mmol) in saturated ethanolic ammonia (20 ml) was placed in an autoclave and kept at 110° C. for 5 h. After cooling, the solvent was evaporated in vacuo and the residue chromatographed on silica, eluting with chloroform-methanol 10:1, affording 2,6-diamino-9-[1-(diethoxyphosphorylmethoxy)-3-hydroxyprop-2-oxy]purine (100 mg, 28%) as an oil. νmax (CHCl3) 3500, 3400, 1620 and 1600 cm-1 ; δH [(CD3)2SO] 1.24, (6H, t, J7.1 Hz, 2×CH2CH3), 3.58 (2H, m, CH2OH), 3.80 (2H, d, J5.0 Hz, CH2OCH2P), 3.92 (2H, d, J8.2 Hz, CH2P), 4.05 (4H,m,2×CH 2 CH3), 4.39 (1H, t, J5.0 Hz, CHON), 5.35 (1H, br.s, D2O exchangeable, OH), 6.00 (2H br.s, D2O exchangeable, NH2), 6.87 (2H, br.s, D2O exchangeable, NH2), 7.87 (1H, s, H-8); m/z (FAB+ve Ion), 391 (MH+).

reactant | 6-chloro-9-[1-(diethoxyphosphorylmethoxy)-3-hydroxyprop-2-oxy]-2-formamidopurine | 0.91 mmol, 400 mg | ClC1=C2N=CN(C2=NC(=N1)NC=O)OC(COCP(=O)(OCC)OCC)CO | C14H21ClN5O7P
reactant | ammonia | 20 ml | N | H3N
product | 2,6-diamino-9-[1-(diethoxyphosphorylmethoxy)-3-hydroxyprop-2-oxy]purine | 100 mg, 28% | NC1=NC(=C2N=CN(C2=N1)OC(COCP(=O)(OCC)OCC)CO)N | C13H23N6O6P
